US05225402
1-[1-(4-Formylbenzoyl)-4-piperidinyl]-3,4-dihydrocarbostyril (1 g), hydroxylamine hydrochloride (580 mg) and sodium acetate (1.6 g) are dissolved in ethanol (20 ml) and water (10 ml) and the mixture is stirred at room temperature overnight. The solvent is concentrated and water is added to the residue. The mixture is extracted with chloroform, dried with sodium carbonate. The solvent is distilled off and the resulting residue is purified by silica gel column chromatography (solvent: n-hexane:ethyl acetate=1:2) and recrystallized from n-hexane/ethanol to give 1-[1-(4-hydroxyiminomethylbenzoyl)-4-piperidinyl]-3,4-dihydrocarbostyril (1 g) as white powder, m.p.: 222°-224° C.

reactant | 1-[1-(4-Formylbenzoyl)-4-piperidinyl]-3,4-dihydrocarbostyril | 1 g | C(=O)C1=CC=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=C1 | C22H22N2O3
reactant | hydroxylamine hydrochloride | 580 mg | Cl.NO
reactant | sodium acetate | 1.6 g | C(C)(=O)[O-].[Na+]
reactant | water | 10 ml | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1-[1-(4-hydroxyiminomethylbenzoyl)-4-piperidinyl]-3,4-dihydrocarbostyril | 1 g | ON=CC1=CC=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=C1 | C22H23N3O3
